US07223791B2
A mixture of 4-[5-(2-nitrophenyl)-1,3,4-oxadiazol-2-yl]benzoic acid (2.00 g), conc. sulfuric acid (0.5 ml) and ethanol (50 ml) was heated under reflux for 6 hrs. After cooling, the reaction mixture was concentrated, and the residue was diluted with ethyl acetate. This solution was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-2:1, volume ratio) to give ethyl 4-[5-(2-nitrophenyl)-1,3,4-oxadiazol-2-yl]benzoate (0.51 g, yield 24%). Recrystallization from hexane-ethyl acetate gave pale-yellow prism crystals. melting point: 127–128° C.

reactant | 4-[5-(2-nitrophenyl)-1,3,4-oxadiazol-2-yl]benzoic acid | 2.00 g | [N+](=O)([O-])C1=C(C=CC=C1)C1=NN=C(O1)C1=CC=C(C(=O)O)C=C1 | C15H9N3O5
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 4-[5-(2-nitrophenyl)-1,3,4-oxadiazol-2-yl]benzoate | 0.51 g, yield 24% | [N+](=O)([O-])C1=C(C=CC=C1)C1=NN=C(O1)C1=CC=C(C(=O)OCC)C=C1 | C17H13N3O5
